US06184419B2
c) 2-Cyclohexylhepta-1,6-dien-3-one
2-Cyclohexyl-hepta-1,6-dien-3-ol (85 g, 0.44 mol) were oxidized with MnO2 (804 g, 9.2 mol) in 2 l of hexane at RT. After stirring for 96 hours, the reaction mixture was filtered over Celite and concentrated in vacuo yielding 71 g of a yellow oil. Distillation (0.04 Torr/70° C.) yielded 43.5 g (51%) of pure product.

reactant | 2-Cyclohexyl-hepta-1,6-dien-3-ol | 0.44 mol, 85 g | C1(CCCCC1)C(=C)C(CCC=C)O | C13H22O
solvent | hexane | 2 l | CCCCCC | C6H14
catalyst | MnO2 | 9.2 mol, 804 g | O=[Mn]=O
product | 2-Cyclohexylhepta-1,6-dien-3-one | 71 g | C1(CCCCC1)C(=C)C(CCC=C)=O | C13H20O
